US05208228
17-Ethyl-1,14-dihydroxy-12-[2'-[4"-(aminoacetyl)amino3"-methoxycyclohexyl)-1'-methylvinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in (100 mg) in dry methylene chloride (4 ml) was added 100 mg of freshly prepared BOC-L-glycine anhydride under nitrogen. After stirring at room temperature for 1.5 hours, the reaction mixture was subjected to work-up and the residue was purified on silica gel (5% MeOH/CH2Cl2) to give the 65 mg of BOC protected compound. This material (48 mg) was dissolved in 1 ml of trifluoroacetic acid at -10° and stirred at this temperature. After 30 minutes, the reaction mixture was cooled to -78° and freeze-dried to give the yellow solid. Purification of the crude material by preparative tlc on silica gel (1% NH4OH in 5% MeOH/CH2Cl2) gave 28 mg of the title compound.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)OC)C)C)O)=O | C43H70N2O11
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 17-Ethyl-1,14-dihydroxy-12-[2'-[4"-(aminoacetyl)amino3"-methoxycyclohexyl)-1'-methylvinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 28 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NC(CN)=O)OC)C)C)O)=O | C45H73N3O12
